US07615557B2
The crude ethyl 1-[5-(trifluoromethyl)pyridin-2-yl]piperidine-4-carboxylate was dissolved in 15 ml of methanol and 2.5 ml of water. 535 mg (9.54 mmol) of potassium hydroxide were added and the mixture was reacted at 40° C. for 30 min. The mixture was evaporated, the residue was dissolved in water, pH 3 was adjusted with 2N hydrochloric acid and the solid formed was filtered off and dried in vacuo to yield 471 mg (54% yield) of 1-[5-trifluoromethyl)pyridin-2-yl]piperidine-4-carboxylic acid.

reactant | ethyl 1-[5-(trifluoromethyl)pyridin-2-yl]piperidine-4-carboxylate | FC(C=1C=CC(=NC1)N1CCC(CC1)C(=O)OCC)(F)F | C14H17F3N2O2
reactant | potassium hydroxide | 9.54 mmol, 535 mg | [OH-].[K+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 2.5 ml | O | H2O
product | piperidine-4-carboxylic acid | N1CCC(CC1)C(=O)O | C6H11NO2
